US05024998
Preparation of 3-(Phenylcarbonyloxy)-17β-[(3-pyridinylcarbonyl)oxy]estra-1,3,5(10)-triene
Estradiol benzoate (2.5 g, 6.6 mmol) was dissolved in 50 mL of dry pyridine, then 1.66 g of nicotinic anhydride and a catalytic amount of 4-(dimethylamino)pyridine (DMAP) were added. The reaction mixture was stirred for 5 days at room temperature, then was poured into ice water. The solid which formed was collected by filtration and dried in vacuo, yielding 3.01 g (94%) of the product as a white solid melting at 151°-154° C.

reactant | Estradiol benzoate | 6.6 mmol, 2.5 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)OC(=O)C=5C=CC=CC5 | C25H28O3
reactant | nicotinic anhydride | 1.66 g | C(C1=CN=CC=C1)(=O)OC(C1=CN=CC=C1)=O | C12H8N2O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(Phenylcarbonyloxy)-17β-[(3-pyridinylcarbonyl)oxy]estra-1,3,5(10)-triene | 3.01 g, 94% | C1(=CC=CC=C1)C(=O)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)OC(=O)C=1C=NC=CC1 | C31H31NO4
